US07705172B2
Synthesis of N,N-dicyclohexylbenzamidine (Ligand 2)
Dicyclohexylamine (18.1 g, 0.10 mmol) was dissolved in diethylether (150 ml). The solution was heated to reflux temperature and a solution of methylmagnesiumbromide (33 ml, 3.0 M in diethylether, 0.10 mol) was added dropwise over a period of 20 minutes. After the addition, the reaction mixture was stirred for 3 hours at room temperature. Benzonitrile (10.3 g, 0.10 mol) was added and the reaction mixture was stirred for 20 hours at room temperature. A solution of ammoniumchloride (10% in water, 100 ml) was added. The water and organic layers were separated and the water layer was extracted twice with diethylether (150 ml). The combined ether layers were dried over sodium sulphate, filtered and the solvent was evaporated from the filtrate resulting in a yellow wax (23.6 g). The product was further purified by short path distillation (kugelrohr, P=0.8 mbar, T=150° C.). Yield 19.5 g (69%). The product was characterized by 1H NMR 300 MHz (CDCl3) δ (ppm): 7.3 (dd, 3H), 7.2 (dd, 2H), 5.7 (bs, 1H), 3.1 (tt, 2H), 2.0 (bq, 3H), 1.7 (m, 8H), 1.5 (d, 2H), 1.1 (m, 6H) and by 13CNMR 75 MHz (CDCl3) δ (ppm): 169.3, 131.9, 128.7, 128.3, 126.2, 58.6, 31.6, 27.0, 25.8

reactant | Dicyclohexylamine | 0.10 mmol, 18.1 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | methylmagnesiumbromide | 0.10 mol, 3.0 M, 33 ml | C[Mg]Br
reactant | Benzonitrile | 0.10 mol, 10.3 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | ammoniumchloride | 100 ml | [Cl-].[NH4+]
solvent | diethylether | 150 ml | C(C)OCC | C4H10O
product | N,N-dicyclohexylbenzamidine | C1(CCCCC1)N(C(C1=CC=CC=C1)=N)C1CCCCC1 | C19H28N2
